US05665754
To a solution of 3-methoxycarbonyl-4-[3-(3-phenoxypropoxy)-4-methoxyphenyl]pyrrolidine (720 mg, 1.87 mmol) in 5 mL of CH2Cl2 at 0° C. was added DMAP (275 mg, 2.25 mmol), followed by methyl chloroformate (213 mg, 2.25 mmol). The solution was stirred for 2 hr, diluted with ether, and washed with 1M H3PO4. The aqueous layer was extracted with ether (2×) and ethyl acetate (1×). The combined organic layers were dried over MgSO4, filtered and concentrated to a colorless oil. Silica gel chromatography (4:2:1, hexanes:ethyl acetate:CH2Cl2) provided trans-1-methoxycarbonyl-3-methoxycarbonyl-4-[3-(3-phenoxypropoxy)-4-methoxyphenyl]pyrrolidine as a colorless oil (634 mg, 77%). Anal. Calcd for C24H29NO7 : C, 64.99; H, 6.59; N, 3.16. Found: C, 64.85; H, 6.57; N, 3.15.

reactant | 3-methoxycarbonyl-4-[3-(3-phenoxypropoxy)-4-methoxyphenyl]pyrrolidine | 1.87 mmol, 720 mg | COC(=O)C1CNCC1C1=CC(=C(C=C1)OC)OCCCOC1=CC=CC=C1 | C22H27NO5
reactant | methyl chloroformate | 2.25 mmol, 213 mg | ClC(=O)OC | C2H3ClO2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.25 mmol, 275 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ether | CCOCC | C4H10O
product | trans-1-methoxycarbonyl-3-methoxycarbonyl-4-[3-(3-phenoxypropoxy)-4-methoxyphenyl]pyrrolidine | 634 mg, 77% | COC(=O)N1C[C@H]([C@@H](C1)C1=CC(=C(C=C1)OC)OCCCOC1=CC=CC=C1)C(=O)OC | C24H29NO7
